US08809333B2
(2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid (100 mg, 0.318 mmol, 1 eq) and CDMT (73.2 mg, 0.413 mmol, 1.3 eq) were charged into a flask. The flask was flushed with nitrogen and then 2-MeTHF (5 mL) added. To this mixture was added N-methylmorpholine (50 uL, 0.445 mmol, 1.4 eq) and the reaction mixture was stirred at RT for one hour. O-Tetrahydro-2H-pyran-2-yl-hydroxylamine (49 mg, 0.413 mmol, 1.3 eq) was added and the reaction mixture was stirred overnight at RT. Water (25 mL) was added and the organic phase was separated. The aqueous phase was extracted with ethyl acetate (50 mL). The organic phases were combined, dried over sodium sulfate, filtered and concentrated to give (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (100 mg, 76% yield) which was used without further purification. LC-MS M+H+414.1.

reactant | (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid | 0.318 mmol, 100 mg, 1 eq | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C14H22N2O4S
reactant | N-methylmorpholine | 0.445 mmol, 50 uL, 1.4 eq | CN1CCOCC1 | C5H11NO
reactant | O-Tetrahydro-2H-pyran-2-yl-hydroxylamine | 0.413 mmol, 49 mg, 1.3 eq | O1C(CCCC1)ON | C5H11NO2
solvent | Water | 25 mL | O | H2O
product | (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 100 mg, 76% yield | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C19H31N3O5S
